US08389509B2
A mixture of 5-amino-1-phenyl-1H-pyrazole-4-carboxylic acid (90 mg, 0.441 mmol), (Z)-methyl 1-(4-(N′-hydroxycarbamimidoyl)benzyl)azetidine-3-carboxylate (116 mg, 0.441 mmol), EDC (84 mg, 0.441 mmol) and HOBT (67.5 mg, 0.441 mmol) in DMF (1 mL) was stirred at RT for 1 hr. At this time, Et3N (0.061 mL, 0.441 mmol) was added and stirring was continued at RT for 3 days. The mixture was then heated to 50° C. for 10 minutes. The reaction mixture was partitioned between EtOAc (30 mL) and saturated sodium bicarbonate solution (30 mL). The organic layer was washed with saturated sodium bicarbonate solution (30 mL), water (30 mL) and brine (30 mL). After drying (MgSO4) and filtration, the organic layer was concentrated to afford (Z)-methyl 1-(4-(N′-(5-amino-1-phenyl-1H-pyrazole-4-carbonyloxy)carbamimidoyl)benzyl)azetidine-3-carboxylate (103 mg, 0.230 mmol) as a white solid. HPLC retention time=1.05 minutes (PHENOMENEX® Luna 4.6×30 mm S-5 ODS column) eluting with 10-90% aqueous methanol+0.1% TFA over a 2 minute gradient. MS:(M+H)=449.3.

reactant | 5-amino-1-phenyl-1H-pyrazole-4-carboxylic acid | 0.441 mmol, 90 mg | NC1=C(C=NN1C1=CC=CC=C1)C(=O)O | C10H9N3O2
reactant | (Z)-methyl 1-(4-(N′-hydroxycarbamimidoyl)benzyl)azetidine-3-carboxylate | 0.441 mmol, 116 mg | O\N=C(/N)\C1=CC=C(CN2CC(C2)C(=O)OC)C=C1 | C13H17N3O3
reactant | EDC | 0.441 mmol, 84 mg
reactant | HOBT | 0.441 mmol, 67.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 0.441 mmol, 0.061 mL | CCN(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (Z)-methyl 1-(4-(N′-(5-amino-1-phenyl-1H-pyrazole-4-carbonyloxy)carbamimidoyl)benzyl)azetidine-3-carboxylate | 0.230 mmol, 103 mg | NC1=C(C=NN1C1=CC=CC=C1)C(=O)O\N=C(/N)\C1=CC=C(CN2CC(C2)C(=O)OC)C=C1 | C23H24N6O4
